US04711890
N,N-diisobutyl-2(2-chlorophenyl)-quinoline-4-carboxamide
The residue obtained is dissolved in ethyl acetate (100 ml) and the organic phase is extracted with a normal solution of acetic acid (100 ml), washed with water (4×100 ml), dried over magnesium sulphate and evaporated under reduced pressure. The residue obtained is taken up in acetone and, after the addition of a solution of hydrogen chloride in ether, N,N-diisobutyl-2-(2-chlorophenyl)-quinoline-4-carboxamide hydrochloride (1.5 g), melting at 124° C., is isolated.

reactant | hydrogen chloride | Cl | ClH
reactant | N,N-diisobutyl-2-(2-chlorophenyl)-quinoline-4-carboxamide hydrochloride | 1.5 g | Cl.C(C(C)C)N(C(=O)C1=CC(=NC2=CC=CC=C12)C1=C(C=CC=C1)Cl)CC(C)C
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | acetone | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
product | N,N-diisobutyl-2(2-chlorophenyl)-quinoline-4-carboxamide | C(C(C)C)N(C(=O)C1=CC(=NC2=CC=CC=C12)C1=C(C=CC=C1)Cl)CC(C)C | C24H27ClN2O
